US08404859B2
Preparation of 5-[(1H-Indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carboxylic acid
A mixture of 5-[(1H-Indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carb oxylic acid methyl ester (270 mg, 0.33 mmol), lithium hydroxide monohydrate (300, mg, 7.10 mmol), THF (5 mL) and water (5 mL) was stirred 15 h, acidified with 1N HCl and extracted with EtOAc (×3). The organic extracts were combined, washed with brine, dried over sodium sulfate, filtered and evaporated to give the title compound, 260 mg (99%). MS m/e 369.0 (M+H+).

reactant | 5-[(1H-Indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carb oxylic acid methyl ester | 0.33 mmol, 270 mg | COC(=O)C=1SC(=CC1C(F)(F)F)C(NCC1=C2C=CNC2=CC=C1)=O | C17H13F3N2O3S
reactant | lithium hydroxide monohydrate | O.[OH-].[Li+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 5-[(1H-Indol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carboxylic acid | N1C=CC2=C(C=CC=C12)CNC(=O)C1=CC(=C(S1)C(=O)O)C(F)(F)F | C16H11F3N2O3S
